US07288544B2
3) Synthesis of 2-(2-chloroethoxy) methyl-4-(3-chlorophenyl)-6-methyl-1,4-dihydropyridine-3,5-dicarboxylic acid 5-(2-cyanoethyl) ester:
5 ml of ethyl acetate and 10% palladium carbon were added to 340 mg (0.640 mmol) of 2-(2-chloroethoxy) methyl-4-(3-chlorophenyl)-6-methyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-benzyl ester 5-(2-cyanoethyl) ester. The obtained solution was stirred at room temperature in hydrogen atmosphere under normal pressure for 8 hours. After filtering the reaction mixture, the filtrate was evaporated under reduced pressure to obtain the title compound.

reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
reactant | 2-(2-chloroethoxy) methyl-4-(3-chlorophenyl)-6-methyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-benzyl ester 5-(2-cyanoethyl) ester | 0.640 mmol, 340 mg | C(#N)CCOC(=O)C=1C(C(=C(NC1C)COCCCl)C(=O)OCC1=CC=CC=C1)C1=CC(=CC=C1)Cl | C27H26Cl2N2O5
solvent | hydrogen | [H][H] | H2
catalyst | palladium carbon | [C].[Pd]
product | 2-(2-chloroethoxy) methyl-4-(3-chlorophenyl)-6-methyl-1,4-dihydropyridine-3,5-dicarboxylic acid 5-(2-cyanoethyl) ester | C(#N)CCOC(=O)C=1C(C(=C(NC1C)COCCCl)C(=O)O)C1=CC(=CC=C1)Cl | C20H20Cl2N2O5
